Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.68231836533
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.11152373632
[H:7].[O:1]=[C:2]([C:3][O:4][H:5])[C:6][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.69387788458
[C:2](#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.54097918328
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.222481742649999
[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1](#[C:2]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[H:3],-2.25494183085
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-5.12094666998
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.50004428735
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([O:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[H:12],1.09420362225
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-4.68548869042
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]#[C:5][H:6],1.91566191216
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2].[C:3](=[O:4])[C:5]([H:6])([H:7])[H:8],4.8200952949
[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3],0.357447855591
[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9].[O:1],6.9525074598000005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.59766271521
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[H:7]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-2.43336800753
[C:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13],-4.85248469829
[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:4](=[C:5]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.789123619290001
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.65769970059
[H:1][C:2]=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.13153722698
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],1.97102752181
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:9][C:10]([H:11])[H:12].[H:8],2.56173769602
[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],6.217896253919999
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.27990878876
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8]>>[C:7][H:8].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],7.92988146795
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:11][H:12],2.66894325546
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13],1.71333238053
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.3289014018900005
